US08809267B2
To a mixture of 1-[2-amino-3-chloro-4-(2,2-dimethoxyethoxy)phenyl]ethanone (13 g, 47.5 mmol) and isopropylaminothiazole-4-carboxylic acid hydrobromide (prepared as described in Ivanov, V., et. al.; EP1881001A1, p. 62-63; 12.6 g, 47.5 mmol) in pyridine (150 ml) was slowly added phosphorus oxychloride (9.47 g, 61.8 mmol) at −40° C. The mixture was then stirred at 0° C. for 4 h. Upon completion of the reaction, H2O (30 ml) was added dropwise to the mixture. The mixture was then stirred at 0° C. for another 15 min. The mixture was concentrated in vacuo. The residue was diluted with EtOAc, washed with a sat. NaHCO3 aqueous solution. The organic layer was dried (Na2SO4) and concentrated in vacuo. The residue was dissolved in CH2Cl2, hexanes was added slowly to the solution, and a yellow solid started to crash out. More hexanes were added precipitation was complete to afford 2-isopropylaminothiazole-4-carboxylic acid [6-acetyl-2-chloro-3-(2,2-dimethoxyethoxy)phenyl]amide (18 g, 85% yield).

reactant | 1-[2-amino-3-chloro-4-(2,2-dimethoxyethoxy)phenyl]ethanone | 47.5 mmol, 13 g | NC1=C(C=CC(=C1Cl)OCC(OC)OC)C(C)=O | C12H16ClNO4
reactant | isopropylaminothiazole-4-carboxylic acid hydrobromide | 47.5 mmol, 12.6 g | Br.C(C)(C)NC=1SC=C(N1)C(=O)O
reactant | phosphorus oxychloride | 61.8 mmol, 9.47 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | H2O | 30 ml | O | H2O
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 2-isopropylaminothiazole-4-carboxylic acid [6-acetyl-2-chloro-3-(2,2-dimethoxyethoxy)phenyl]amide | 18 g, 85% yield | C(C)(=O)C1=CC=C(C(=C1NC(=O)C=1N=C(SC1)NC(C)C)Cl)OCC(OC)OC | C19H24ClN3O5S
